US08735411B2
2,5-dioxopyrrolidin-1-yl 4-(tert-butoxycarbonylamino)butanoate
A 100 mL round bottomed flask containing 4-(tert-butoxycarbonylamino)butanoic acid (1 g, 4.92 mmol) was treated with N-hydroxysuccinimide (0.680 g, 5.90 mmol), treated with DMF (8 ml), cooled to 0° C., treated with N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (1.226 g, 6.40 mmol), stirred at ambient temperature for 2 hours, diluted with Et2O (100 mL), washed with H2O (2×25 mL), dried (MgSO4), filtered and concentrated to provide the title compound. 1H NMR (CDCl3) δ 1.44 (s, 9H), 1.90-2.00 (m, 2H), 2.66 (t, J=7.54 Hz, 2H), 2.84 (s, 4H), 3.15-3.28 (m, 2H), 4.73 (bs, 1H).

reactant | 4-(tert-butoxycarbonylamino)butanoic acid | 4.92 mmol, 1 g | C(C)(C)(C)OC(=O)NCCCC(=O)O | C9H17NO4
reactant | N-hydroxysuccinimide | 5.90 mmol, 0.680 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | DMF | 8 ml | CN(C)C=O | C3H7NO
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 6.40 mmol, 1.226 g | Cl.CN(CCCN=C=NCC)C
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | 2,5-dioxopyrrolidin-1-yl 4-(tert-butoxycarbonylamino)butanoate | C(C)(C)(C)OC(=O)NCCCC(=O)ON1C(CCC1=O)=O | C13H20N2O6
